US08008484B2
2-(1-Chloroethyl)-4,6-dimethoxypyrimidine 15.5 g (76.5 mmol) was dissolved in DMF 200 ml and sodium salt of methylmercaptan 5.4 g (76.5 mmol) was added thereto at room temperature. The solution was stirred at 50° C. for 1 hour. The reaction solution was poured into water and extracted with ethyl acetate. The solvent was distilled off and the residue was purified with column chromatography (hexane/ethyl acetate=5/1) to obtain 2-(1-methylthioethyl)-4,6-dimethoxypyrimidine 14.8 g (90%).

reactant | 2-(1-Chloroethyl)-4,6-dimethoxypyrimidine | 76.5 mmol, 15.5 g | ClC(C)C1=NC(=CC(=N1)OC)OC | C8H11ClN2O2
reactant | sodium | [Na] | Na
reactant | methylmercaptan | 76.5 mmol, 5.4 g | CS | CH4S
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(1-methylthioethyl)-4,6-dimethoxypyrimidine | 14.8 g, 90% | CSC(C)C1=NC(=CC(=N1)OC)OC | C9H14N2O2S
